US07807709B2
C. (3S*,4S*)4-Hydroxymethyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butylester 3-ethyl ester
To a solution of (3S*,4S*)-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3-ethyl ester (10 g, 34.8 mmol) in THF (180 mL), a solution of borane dimethylsulfide complex (2N in THF, 24.4 mL, 48.7 mmol) is added slowly at −10° C. The mixture is stirred at −10° C. for 20 min, then allowed to reach RT and further stirred for 4 h. MeOH is carefully added (exothermic!), and the mixture is concentrated under reduced pressure. MeOH is again added, and the mixture is concentrated. This operation is repeated 3 times, then the mixture is finally taken up into a saturated aqueous solution of NaHCO3 and extracted 3 times with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude material is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH from 100:0 to 95:5) to give the title compound as product. TLC, Rf (AcOEt)=0.52. MS (LC-MS): 174.1 [M+H-Boc]+.

reactant | (3S*,4S*)-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3-ethyl ester | 34.8 mmol, 10 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)O)C(=O)OC(C)(C)C | C13H21NO6
reactant | borane dimethylsulfide | 48.7 mmol, 2N, 24.4 mL | CSC.B
reactant | MeOH | CO | CH4O
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | (3S*,4S*)4-Hydroxymethyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butylester 3-ethyl ester | C(C)OC(=O)[C@@H]1CN(C[C@H]1CO)C(=O)OC(C)(C)C | C13H23NO5
